US07365085B2
b. N-Methyl-3-aminobenzene sulfonamide
A solution of N-methyl-3-nitrobenzene sulfonamide (608 mg, 2.8 mmole) in 30 mL of MeOH and 5 mL of EtOAc was treated with 10% Pd/C (100 mg) and hydrogenated at 1 atmosphere H2 pressure for 16 hours. The catalyst was filtered, and the filtrate evaporated. The residue was dissolved in EtOAc, washed with H2O, dried and the solvent removed, and gave the titled product, 498 mg (96%). MS (ESI) 187 (MH+).

reactant | N-methyl-3-nitrobenzene sulfonamide | 2.8 mmole, 608 mg | CNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C7H8N2O4S
solvent | MeOH | 30 mL | CO | CH4O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | N-Methyl-3-aminobenzene sulfonamide | CNS(=O)(=O)C1=CC(=CC=C1)N | C7H10N2O2S
